US05646172
4-amino-1-methyl-piperidine-4-carbonitrile
Using the procedure of Stage 1 of Example 1, 8 ml of ammonium hydroxide, 1.58 g of ammonium chloride and 1.23 g of sodium cyanide were reacted and 2.5 ml of 1-methylpiperidone were added. The mixture was stirred for 18 hours at ambient temperature, followed by extraction r3 times with chloroform. The organic phase was washed with salt water and dried to obtain 2.41 g of the expected product (orange-yellow syrup).

reactant | ammonium hydroxide | 8 ml | [OH-].[NH4+]
reactant | ammonium chloride | 1.58 g | [Cl-].[NH4+]
reactant | sodium cyanide | 1.23 g | [C-]#N.[Na+]
reactant | 1-methylpiperidone | 2.5 ml | CN1C(CCCC1)=O | C6H11NO
product | 4-amino-1-methyl-piperidine-4-carbonitrile | 2.41 g | NC1(CCN(CC1)C)C#N | C7H13N3
